US07902237B2
Preparation of 3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-2-thioxothiazolidin-4-one
To a solution of 3-benzyl-5-{[N-(4-hydroxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one (71 mg, 0.20 mmol) in DMF (1.0 mL, anhyd) was added anhyd K2CO3 (29 mg, 0.21 mmol) and 2-bromoethyl methyl ether (20 μL, 0.21 mmol). The reaction mixture was heated at 50° C. After 20 h the reaction mixture was cooled, diluted with CHCl3 (50 mL), washed with H2O (3×25 mL) and brine, dried over anhyd Na2SO4, concentrated and then chromatographed (silica gel, 0:100 to 20:80 EtOAc-DCM) to give the title product (60 mg, 73%) as a yellow solid. 1H-NMR (CDCl3): δ 7.73 (1H, s), 7.44 (2H, d), 7.21-7.30 (3H, m), 7.11 (2H, d), 6.97 (2H, d), 5.23 (2H, s), 4.15 (2H, m), 3.79 (2H, m), 3.48 (3H, s), 3.47 (3H, s).

reactant | 3-benzyl-5-{[N-(4-hydroxyphenyl)-methylamino]-methylene}-2-thioxothiazolidin-4-one | 0.20 mmol, 71 mg | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C1=CC=C(C=C1)O)C)=S | C18H16N2O2S2
reactant | K2CO3 | 0.21 mmol, 29 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl methyl ether | 0.21 mmol, 20 μL | COCCBr | C3H7BrO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-2-thioxothiazolidin-4-one | 60 mg, 73% | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C1=CC=C(C=C1)OCCOC)C)=S | C21H22N2O3S2
